US08232278B2
Synthesis of 7-chloro-pyrido[3,2-d]pyrimidin-4(3H)one
A suspension of 3-amino-5-chloro-pyridine-2-carboxamide (3.43 g, 20 mmole) in triethyl orthoformate (50 ml) was refluxed for 3 hours. After cooling to room temperature, the precipitate was collected by filtration and washed with hexane. The title compound was obtained as a white solid (3.4 g, yield 94%) which was characterized by its mass spectrum as follows: MS (m/z): 182.1 ([M+H]+, 100).

reactant | 3-amino-5-chloro-pyridine-2-carboxamide | 20 mmole, 3.43 g | NC=1C(=NC=C(C1)Cl)C(=O)N | C6H6ClN3O
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
product | 7-chloro-pyrido[3,2-d]pyrimidin-4(3H)one | ClC1=CC=2N=CNC(C2N=C1)=O | C7H4ClN3O
